US07704996B2
Step 73.2: 2-Chloro-4-(methylspiro[2.5]oct-6-ylmethylamino)pyrimidine-5-carboxylic acid allyl ester
To a solution of the 2,4-dichloropyrimidine-5-carboxylic acid allyl ester (1.6 mmol) in dioxane (6 mL) is added Et3N (2.4 mmol) at room temperature. A solution of methyl-spiro[2.5]oct-6-ylmethylamine (1.6 mmol) in dioxane (2.0 mL) is added dropwise to the reaction mixture. The reaction mixture is stirred at room temperature for 12 h and the reaction is quenched by the addition of water. The mixture is extracted with CH2Cl2. The organic extracts are dried over Na2SO4, filtered, and concentrated in vacuo. The resulting residue is purified by silica gel column chromatography to give the title compound (370 mg); 1H NMR (CDCl3) δ 0.15-0.19 (m, 2H), 0.25-0.29 (m, 2H), 0.87-0.91 (m, 2H), 1.08-1.20 (m, 2H), 1.60-1.85 (m, 5H), 2.95 (s, 3H), 3.59 (d, 2H), 4.77-4.78 (m, 2H), 5.29-6.08 (m, 1H), 8.48 (s, 1H).

reactant | 2,4-dichloropyrimidine-5-carboxylic acid allyl ester | 1.6 mmol | C(C=C)OC(=O)C=1C(=NC(=NC1)Cl)Cl | C8H6Cl2N2O2
reactant | Et3N | 2.4 mmol | CCN(CC)CC | C6H15N
reactant | methyl-spiro[2.5]oct-6-ylmethylamine | 1.6 mmol | CNCC1CCC2(CC2)CC1 | C10H19N
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 2.0 mL | O1CCOCC1 | C4H8O2
product | 2-Chloro-4-(methylspiro[2.5]oct-6-ylmethylamino)pyrimidine-5-carboxylic acid allyl ester | 370 mg | C(C=C)OC(=O)C=1C(=NC(=NC1)Cl)N(CC1CCC2(CC2)CC1)C | C18H24ClN3O2
